US05741801
a) 3-Acetyl-1-methyl-1H-indole
3-Acetyl-1H-indole (4.00 g, 0.025 mol) was dissolved in dry THF (100 ml), and treated with 80% sodium hydride (0.794 g, 0.0263 mol) with stirring under At. After 0.5 h, methyl iodide (2.36 ml, 0.038 mol) was added. After 20 h, the reaction mixture was evaporated under reduced pressure and the residue partitioned between ethyl acetate and water. The organic layer was then dried (Na2SO4), and evaporated under reduced pressure to give the title compound as a pale brown oil which crystallised on standing (4.20 g, 97%).

reactant | 3-Acetyl-1H-indole | 0.025 mol, 4.00 g | C(C)(=O)C1=CNC2=CC=CC=C12 | C10H9NO
reactant | sodium hydride | 0.0263 mol, 0.794 g | [H-].[Na+]
reactant | methyl iodide | 0.038 mol, 2.36 ml | CI | CH3I
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-Acetyl-1-methyl-1H-indole | C(C)(=O)C1=CN(C2=CC=CC=C12)C | C11H11NO
